US07399759B2
Diethyl 2-(4-pyridyl)ethylphosphonate N-oxide
Diethyl 2-(4-pyridyl)ethylphosphonate (10.3 g, 42 mmol) and 3-chloroperbenzoic acid (77%, 12.3 g, 54 mmol) were dissolved in ethyl acetate (200 ml), and the mixture was stirred at room temperature for 5 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethanol-ethyl acetate (1:1, v/v) were collected and concentrated to give the titled compound (9.9 g, 99%).

reactant | Diethyl 2-(4-pyridyl)ethylphosphonate | 42 mmol, 10.3 g | N1=CC=C(C=C1)CCP(OCC)(OCC)=O | C11H18NO3P
reactant | 3-chloroperbenzoic acid | 54 mmol, 12.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Diethyl 2-(4-pyridyl)ethylphosphonate N-oxide | 9.9 g, 99% | CCOP(=O)(CCC1=CC=[N+](C=C1)[O-])OCC | C11H18NO4P
